US07183306B2
To a solution of 4-[1-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoroethoxy)-1-H-pyrazol-5-yl]benzonitrile (197 mg) in THF (2 ml) was added lithium aluminum hydride (30 mg) under ice-bath cooling. The mixture was stirred at same temperature for 1 hour and then at ambient temperature for 2 hours. The reaction was quenched by adding 5% aqueous solution of potassium sodium tartaric acid (ca. 0.5 ml) . The mixture was diluted with AcOEt, dried over MgSO4, and filtered through a celite pad. The filtrate was concentrated in vacuo to give {4-[1-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoro-ethoxy)-1-H-pyrazol-5-yl]benzyl}amine (200 mg) as an oil.

reactant | 4-[1-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoroethoxy)-1-H-pyrazol-5-yl]benzonitrile | 197 mg | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=C(C#N)C=C1)OCC(F)(F)F | C18H13F3N4O2
reactant | lithium aluminum hydride | 30 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | {4-[1-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoro-ethoxy)-1-H-pyrazol-5-yl]benzyl}amine | 200 mg | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=C(CN)C=C1)OCC(F)(F)F | C18H17F3N4O2
